US06384233B1
Known methods of synthesizing tepoxalin include the following. U.S. Pat. No. 4,826,868 describes reacting the alcohol, 5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanol with Jones reagent to form the acid, 5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoic acid, which is reacted with dimethylformamide and oxalyl chloride in tetrahydrofuran (“THF”) which is then reacted with methylhydroxylamine hydrochloride and triethylamine in THF.

reactant | tepoxalin | CN(C(=O)CCC=1C=C(N(N1)C=2C=CC(=CC2)OC)C=3C=CC(=CC3)Cl)O | C20H20ClN3O3
reactant | 5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanol | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)CCCO | C19H19ClN2O2
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
product | 5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoic acid | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)CCC(=O)O | C19H17ClN2O3
